US07354942B2
Methyl 2,6-dichloroisonicotinate (10 g, 48.5 mmol), methyl(propylsulfonyl)amine (7.99 g, 58.2 mmol), potassium phosphate (14.4 g, 68 mmol), Xantphos (1.69 g, 2.9 mmol) and tris(dibenzylideneacetone)dipalladium (0.89 g, 0.97 mmol) were added to a dry, argon flushed flask. Dioxane (400 mL) was added, the solution degassed with argon and the reaction was heated to 100° C. for 16 h. The reaction was cooled to rt, filtered through celite and evaporated in vacuo. Flash chromatography (silica, 0-35% EtOAc/hexanes) gave methyl 2-chloro-6-[(methylsulfonyl)(propyl)amino]isonicotinate as a yellow oil: 1H NMR (400 MHz, CD3OD) δ 7.88 (s, 1H), 7.72 (s, 1H), 3.96 (s, 3H), 3.91 (t, J=6.4 Hz, 2H), 3.13 (s, 3H), 1.68-1.53 (m, 2H), 0.93 (t, J=7.5 Hz, 3H).

reactant | Methyl 2,6-dichloroisonicotinate | 48.5 mmol, 10 g | ClC=1C=C(C(=O)OC)C=C(N1)Cl | C7H5Cl2NO2
reactant | methyl(propylsulfonyl)amine | 58.2 mmol, 7.99 g | CNS(=O)(=O)CCC | C4H11NO2S
reactant | potassium phosphate | 68 mmol, 14.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Xantphos | 2.9 mmol, 1.69 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.97 mmol, 0.89 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | methyl 2-chloro-6-[(methylsulfonyl)(propyl)amino]isonicotinate | ClC=1C=C(C(=O)OC)C=C(N1)N(CCC)S(=O)(=O)C | C11H15ClN2O4S
